US06350759B1
3,5-Dimethyl-4-ethoxy-nitrobenzene
300 mmol (326 g) of caesium carbonate and 374 mmol (58.5 g) of ethyl iodide are added in succession to a solution of 149.5 mmol (25 g) of 2,6-dimethyl-4-nitrophenol in 1300 ml of acetonitrile. The whole is heated at reflux under an inert atmosphere for 15 hours. The reaction mixture is subsequently cooled and then filtered, and the filtrate is evaporated. The residue is dissolved in ethyl acetate and washed with water and then with 10% aqueous sodium chloride solution. The expected product is obtained by drying the organic phase and then concentrating.

reactant | caesium carbonate | 300 mmol, 326 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl iodide | 374 mmol, 58.5 g | C(C)I | C2H5I
reactant | 2,6-dimethyl-4-nitrophenol | 149.5 mmol, 25 g | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)O | C8H9NO3
solvent | acetonitrile | 1300 ml | C(C)#N | C2H3N
product | 3,5-Dimethyl-4-ethoxy-nitrobenzene | CC=1C=C(C=C(C1OCC)C)[N+](=O)[O-] | C10H13NO3
